lab2 NMOS
* when we are the PMOS BODY should not be conneceted to gnd but to vdd

*library file
.lib '/usr/cots/synopsys/UniversityLibrary/SAED32_EDK/tech/hspice/saed32nm.lib' TT
.include '/usr/cots/synopsys/UniversityLibrary/SAED32_EDK/lib/stdcell_rvt/hspice/saed32nm_rvt.spf'

*post the results
.option post
.GLOBAL gnd vdd

* Global Temp param (25 C)
.param temp=25


*** Transistors ***
* NMOS
* vgs g gnd 1.05
* vds d gnd 1.05
* vbs b gnd 0

* PMOS
vgs g gnd -1.05
vds d gnd -1.05
vbs b gnd 0

* NMOS Transistor
* .model n105 nmos level=54
* M1 d g gnd b n105 W=300n L=100n
*syntax: Model_name Drain Gate Source Bulk Model (Width; Length; etc.)

* PMOS Transistor
.model p105 pmos level=54
M1 d g gnd b p105 W=300n L=100n
*syntax: Model_name Drain Gate Source Bulk Model (Width; Length; etc.)


* 1. Use the Ids Versus Vds graph (for fixed Vgs) to calculate the channel length 
* modulation coefficient (λ) (NMOS): 
* o Vgs: 1.05; Vds: [0,1.05] 
* o Hint: You can use your curve to solve λ. 
* o Use VLSI-transistor.pdf p.26 and p.28 as a reference
* Vds: [0,1.05] (NMOS)
* .dc vds 0 1.05 0.01
* WE will look at Ids vs Vds grapg for q1


* 2. Calculate velocity saturation (𝒄𝒐𝒙 ∗ 𝝂𝒔𝒂𝒕) (NMOS):
* o Vgs: 1.05; Vds:1.05; vbs:0;
* o Use VLSI-transistor.pdf p.31 as a reference
* .dc vds 1.05 1.05 1.05 vgs 1.05 1.05 1.05


* 3. Print a set of Saturation Voltage (𝑽𝑫𝑺𝒂𝒕) (NMOS): 
* o Vgs: 0:0.2:1.05; Vds:1.05; vbs:0; 
* o  Probe and print Lv9 and Lv10 to help
* o Show the results in ‘.lis’ file.  
* o Manually plot the set of 𝑉𝐷𝑆𝑎𝑡 dots on the Ids versus Vds plot for different Vgs, we 
* did this plot in the lab 2 assignment, part 2. (use Measurement Tool -> Data(x,y) 
* in WaveView)
* .dc vgs 0 1.05 0.2
* Calc
* Graph
* .dc vds 0 1.05 0.01 sweep vgs 0 1.05 0.2 



* 4. Measure the Sub-threshold slope factor (NMOS): 
* o Vgs: [0,1.05]; Vds: 1.05; Vbs: 0; 
* o Use VLSI-transistor.pdf p.41 as a reference (S is ΔVgs for Id2/Id1 = 10)
* .dc vgs 0 1.05 0.01


* 5. Measure the Body effect (𝒌𝜸) (NMOS): 
* o Vgs:1.05; Vds:1.05; Vsb: [-1.05,1.05]; 
* o Use VLSI-transistor.pdf p.13 and p.40 as a reference 
* .dc sweep vbs -1.05 1.05 0.01


* 6. Calculate Beta (β) (NMOS) (Consider the Channel Length Modulation): 
* o Vgs: 1.05; Vds: 1.05; Vbs: 0; 
* o Use VLSI-transistor.pdf p.28 as a reference 
* .dc vds 1.05 1.05 1.05 vgs 1.05 1.05 1.05


* 7. Calculate the NMOS and PMOS mobility ratio (μ𝒏/μ𝒑):
* o Vgs: 1.05; Vds: 1.05; Vbs: 0 for NMOS;
* o Vgs: -1.05; Vds: -1.05; Vbs: 0 for PMOS
* We already calculated C_ox_n so we can just now calculate C_ox_p
* Dont forget to change the model to PMOS and the Vgs and Vds values to -1.05
* PMOS
* .dc vds -1.05 -1.05 -1.05 vgs -1.05 -1.05 -1.05

* 8. Just use Q2 to Calc

* 9. Calculate IDSAT (NMOS):
* o Vgs: 1.05; Vds: 1.05; Vbs: 0 for NMOS;
.dc vgs 1.05 1.05 1.05



*** PROBING and PRINTING DIFFERENT VALUES ***

* Measuring transistor current (Ids) DC
* .PROBE DC i(M1) 
* .print DC i(M1)

* Measuring Channel Length (L) lv1
.PROBE lv1(M1)
.print lv1(M1)

* Measuring Channel Width (W) lv2
.PROBE lv2(M1)
.print lv2(M1)

* Measuring Area of the Drain Diode (AD) lv3
* .PROBE lv3(M1)
* .print lv3(M1)

* Measuring Area of the Source Diode (AS) lv4
* .PROBE lv4(M1)
* .print lv4(M1)

* Measuringe voltage threshold (Vt) lv9
.PROBE lv9(M1)
.print lv9(M1)

* Measuring Saturation Voltage (VDSAT or VSAT) lv10
* .PROBE lv10(M1)
* .print lv10(M1)

* Measuring Drain Diode Periphery (PD) lv11
* .PROBE lv11(M1)
* .print lv11(M1)

* Measuring Source Diode Periphery (PS) lv12
* .PROBE lv12(M1)
* .print lv12(M1)

* Measuring effective mobility (μeff)
.PROBE MOBEFF(M1)
.print MOBEFF(M1) 

.end